US04816587
Preparation of 2-bromolysergic acid methyl ester
Following the process of Example 25, 1 g of lysergic acid methyl ester is reacted with 2.7 ml of trimethylbromosilane and the product is purified by chromatography on a Kieselgel column by using a 7:3 mixture of benzene and acetone as eluant. After recrystallization from benzene, the title compound is obtained in a yield of 0.7 g (0.0019 mole, 55%), m.p.: 177°-178° C., [α]D20 =+41° (c=1, chloroform).

reactant | lysergic acid methyl ester | 1 g | COC(=O)[C@H]1CN(C)[C@@H]2CC3=CNC4=CC=CC(C2=C1)=C34 | C17H18N2O2
reactant | trimethylbromosilane | 2.7 ml | C[Si](Br)(C)C | C3H9BrSi
product | 2-bromolysergic acid methyl ester | COC(=O)[C@H]1CN(C)[C@@H]2CC3=C(NC4=CC=CC(C2=C1)=C34)Br | C17H17BrN2O2
